US06329375B1
To a solution of 2-methyl-5,6-dinitro-benzimidazole in 5% NaOH was added methanol and dimethyl sulfate. The reaction mixture was heated for 30 min at 90-95° C. and then cooled to room temperature. The precipitate which formed was filtered, washed with 10% NaOH and then water, and dried overnight at 40° C. to yield 1,2-dimethyl-5,6-dinitrobenzimidazole.

reactant | 2-methyl-5,6-dinitro-benzimidazole | CC=1NC2=C(N1)C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-] | C8H6N4O4
reactant | methanol | CO | CH4O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | NaOH | [OH-].[Na+]
product | 1,2-dimethyl-5,6-dinitrobenzimidazole | CN1C(=NC2=C1C=C(C(=C2)[N+](=O)[O-])[N+](=O)[O-])C | C9H8N4O4
